Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, abd pain, jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___
 
History of Present Illness:
Mr ___ is a ___ with h/o t2DM (insulin dependent), HTN, 
prior CCY, who p/w fevers, N/V, jaundice, and found to have 
cholangitis, transferred from ___ to ___ today. 

He reports one month of body aches, and then 2 days of weakness, 
chills, fevers, and nausea/vomiting, increasing jaundice and 
dark urine. He initially presented to ___, 
reportedly was confused there. Was febrile to 101.1, lactate 
3.2, Alk Phos 459, AST 214, ALT 240, Total bili 6.3, Direct bili 
5.1 at ___. Cr 1.6. Also had a CT head without acute process 
(per report) and CXR without acute process (per report). Flu A+B 
was checked and reportedly negative. Sounds as though he had a 
known CBD stone from a previous CT scan. He was given 
ceftriaxone, flagyl, lantus, Tylenol, then transferred to ___ 
ED. 

In the ___ ED, vitals showed 96.6, 88, 121/56, 20, 97% RA   
EKG: NSR, HR 77, Na, NI, no T wave peaks, no STEMI. Repeat labs 
similar (actually slightly improved), lactate 3.3. ERCP was 
consulted, and took him for ERCP this evening

ERCP found a stone, sludge, and pus. Stone was removed (full 
report pending) 

On arrival to the floor, patient is sleeping comfortably.
 
Past Medical History:
- Type 2 diabetes mellitus (on insulin)
- Hypertension
- s/p cholecystectomy
 
Social History:
___
Family History:
- diabetes in the family 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  97.9 138/59 65 16 99%ra 
GENERAL: NAD, pleasant Caucasian man, diaphoretic    
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, pink 
conjunctiva, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
Admission labs
___ 05:55PM BLOOD WBC-10.2* RBC-3.76* Hgb-11.4* Hct-34.2* 
MCV-91 MCH-30.3 MCHC-33.3 RDW-14.0 RDWSD-46.5* Plt ___
___ 05:55PM BLOOD Neuts-85.4* Lymphs-4.4* Monos-9.7 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.74* AbsLymp-0.45* 
AbsMono-0.99* AbsEos-0.00* AbsBaso-0.02
___ 05:55PM BLOOD Glucose-223* UreaN-30* Creat-1.6* Na-138 
K-5.0 Cl-102 HCO3-21* AnGap-20
___ 05:55PM BLOOD ALT-190* AST-186* AlkPhos-356* 
TotBili-5.9*
___ 05:55PM BLOOD Albumin-3.6
___ 06:10PM BLOOD Lactate-3.3*
 
Brief Hospital Course:
Mr ___ is a ___ with h/o t2DM (insulin dependent), HTN, 
prior CCY, who p/w fevers, N/V, jaundice, and found to have 
cholangitis, now s/p ERCP   

Cholangitis with sepsis: smoldering symptoms for several weeks, 
likely cholodocholithiasis, now infected. Received 
CTX/metronidazole at OSH. ERCP removed stone.   His symptoms 
resolved thereafter - he was discharged on PO abx X 5 days.  
Cultures remained negative.
.
#) Acute renal failure: likely pre-renal ___ acute infection
Resolved at discharge.

#) Type 2 diabetes mellitus: on insulin at home
- HISS 
- Glargine 

#) Hypertension: restarted home meds at discharge

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
(1) Cholangitis
(2) Diabetes
(3) Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted for blockage and infection in your bile ducts. 
 To treat this, we started you on antibiotics and performed a 
procedure to remove these stones.  You will need to stay on 
antibiotics for an additional 5 days (see prescriptions).   You 
will receive a call from your primary care doctor regarding ___ 
follow up appointment.  
 
Followup Instructions:
___